US04209464
C. 3-amino-2-methylbenzotrifluoride
Add 70 ml of water, 150 ml of glacial acetic acid and 100 g. of 3-amino-4-chloro-2-methylthiomethylbenzotrifluoride to a three-necked round bottom flask fitted with mechanical stirrer and condenser. Then add 535 g. of washed and neutralized Raney active nickel catalyst (Grace no. 28 in water). Heat to reflux (98° C.-100° C.) for 20 hours. Steam distill to obtain the title compound.

reactant | water | 70 ml | O | H2O
reactant | 3-amino-4-chloro-2-methylthiomethylbenzotrifluoride | NC=1C(=C(C=CC1Cl)C(F)(F)F)CSC | C9H9ClF3NS
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 3-amino-2-methylbenzotrifluoride | NC=1C(=C(C=CC1)C(F)(F)F)C | C8H8F3N
